US07696200B2
A microwave tube was charged with a solution of 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid (4-cyano-phenyl)-amide (50 mg, 0.10 mmol) in dimethylformamide (2.0 mL). Ammonium chloride (102 mg, 1.9 mmol) and sodium azide (121 mg, 1.9 mmol) were added and the tube was sealed under an argon atmosphere and irradiated in a microwave oven at a temperature of 155° C. for 35 min. The mixture was then acidified with HCl 1N and extracted three times with ethyl acetate. The combined organic extracts were dried over sodium sulfate and evaporated. The crude was resuspended in dichloromethane and sonicated. Filtration yielded 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid [4-(1H-tetrazol-5-yl)-phenyl]-amide as a white solid, 35 mg (64%), MS (ISP): m/e=525.0, 527.0 (M−H).

reactant | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid (4-cyano-phenyl)-amide | 0.10 mmol, 50 mg | C(#N)C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C23H18ClN3O5S
reactant | Ammonium chloride | 1.9 mmol, 102 mg | [Cl-].[NH4+]
reactant | sodium azide | 1.9 mmol, 121 mg | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid [4-(1H-tetrazol-5-yl)-phenyl]-amide | N1N=NN=C1C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C23H19ClN6O5S
